US05872136
Step C: 2-(2-Trifluoromethylphenyl)-5-hydroxymethylpyridine
To a solution of 2-(2-Trifluoromethylphenyl)-5-carboxypyridine (220 mg, 1.23 mmol) in tetrahydrofuran (10 mL) at 0° C. was added 1.0M lithium aluminum hydride in tetrahydrofuran (1.23 mL, 1.23 mmol) over 10 minutes. The reaction was allowed to stir at ambient temperature for 16 hours, cooled to 0° C., and quenched by dropwise addition of water (0.05 mL), 2.5N aq. NaOH (0.05 mL), and water (0.15 mL). Sodium sulfate was added, the reaction filtered through a pad of Celite and the filtrate evaporated in vacuo. The residue was chromatographed (silica gel, CH2Cl2 then EtOAc) to afford the title compound.

reactant | 2-(2-Trifluoromethylphenyl)-5-carboxypyridine | 1.23 mmol, 220 mg | FC(C1=C(C=CC=C1)C1=NC=C(C=C1)C(=O)O)(F)F | C13H8F3NO2
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.23 mmol, 1.23 mL | O1CCCC1 | C4H8O
product | 2-(2-Trifluoromethylphenyl)-5-hydroxymethylpyridine | FC(C1=C(C=CC=C1)C1=NC=C(C=C1)CO)(F)F | C13H10F3NO
